US07855197B2
Compound 9 3-(N,N-dimethylamino)-7-(N,N-dipropylamino)-phenothiazin-5-ium iodide (20%)
This compound was obtained following isolation of 3-(N,N-dipropylamino)-phenothiazin-5-ium triiodide and subsequent treatment with dimethylamine hydrochloride. Precipitation from dichloromethane by addition of diethyl ether yielded purple lustrous crystals. Mass spectrometry: C20H26N3OS requires m/z=340; found m/z=340 (I− not detected by mass spectrometry).

reactant | 3-(N,N-dipropylamino)-phenothiazin-5-ium triiodide | [I-].[I-].[I-].C(CC)N(CCC)C=1C=CC2=NC3=CC=CC=C3[S+]=C2C1.C(CC)N(CCC)C=1C=CC2=NC3=CC=CC=C3[S+]=C2C1.C(CC)N(CCC)C=1C=CC2=NC3=CC=CC=C3[S+]=C2C1
reactant | dimethylamine hydrochloride | Cl.CNC
product | 3-(N,N-dimethylamino)-7-(N,N-dipropylamino)-phenothiazin-5-ium iodide | [I-].CN(C)C=1C=CC2=NC3=CC=C(C=C3[S+]=C2C1)N(CCC)CCC | InChI=1S/C20H26N3S.HI/c1-5-11-23(12-6-2)16-8-10-18-20(14-16)24-19-13-15(22(3)4)7-9-17(19)21-18;/h7-10,13-14H,5-6,11-12H2,1-4H3;1H/q+1;/p-1
